US05719152
3) Methyl 5-tert-butoxycarbonylaminomethyl-2-nitrobenzoate
A mixture of methyl 5-aminomethyl-2-nitrobenzoate hydrochloride (6.50 g, 26.4 mmol), di-tert-butyl dicarbonate (6.8 g, 31.1 mmol), and triethylamine (8 mL) in dichloromethane (150 mL) was stirred for 5 h at room temperature. After being concentrated, the residue was dispersed between ethyl acetate and 5% aqueous potassium hydrogen sulfate and the organic layer was washed successively with saturated aqueous sodium bicarbonate, water, and brine, dried over magnesium sulfate, and concentrated. The residue was purified by silica gel column chromatography with 6:1 to 3:1 hexane/ethyl acetate to give 7.6 g of the title compound (93%).

reactant | methyl 5-aminomethyl-2-nitrobenzoate hydrochloride | 26.4 mmol, 6.50 g | Cl.NCC=1C=CC(=C(C(=O)OC)C1)[N+](=O)[O-]
reactant | di-tert-butyl dicarbonate | 31.1 mmol, 6.8 g | C(=O)(OC(C)(C)C)OC(=O)OC(C)(C)C | C10H18O5
reactant | triethylamine | 8 mL | C(C)N(CC)CC | C6H15N
solvent | dichloromethane | 150 mL | ClCCl | CH2Cl2
product | Methyl 5-tert-butoxycarbonylaminomethyl-2-nitrobenzoate | 7.6 g, 93% | C(C)(C)(C)OC(=O)NCC=1C=CC(=C(C(=O)OC)C1)[N+](=O)[O-] | C14H18N2O6
